US04346228
2(a) (1S,5R,6R,7R)-6-[(E)-3-Oxo-5-phenyl-1-pentenyl]-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one
At 20° under argon, 20 ml. of a 2-molar butyllithium solution in hexane was added dropwise to a solution of 11.2 g. of dimethyl-2-oxo-4-phenylbutylphosphonate in 400 ml. of ether. The mixture was stirred for 5 minutes and then 600 ml. of ether was added thereto and the mixture again stirred for 5 minutes at 20°. Thereafter, a solution of 9.26 g. of (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one [J. Amer. Chem. Soc. 96, 5865 (1974)] in 150 ml. of tetrahydrofuran was added dropwise to this mixture, and the latter was agitated for 30 minutes at 20°. 6 ml. of glacial acetic acid was added thereto, and the mixture was evaporated under vacuum. The residue was taken up in 600 ml. of methylene chloride, shaken twice with respectively 100 ml. of saturated sodium bicarbonate solution, twice with respectively 100 ml. of water, dried over magnesium sulfate, and evaporated under vacuum. After recrystallization from isopropyl ether/methylene chloride, 11 g. of the title compound was obtained as colorless crystals; m.p. 119°-120°.

reactant | butyllithium | 2-molar | C(CCC)[Li]
reactant | dimethyl-2-oxo-4-phenylbutylphosphonate | CC(CC(CP([O-])([O-])=O)=O)(C1=CC=CC=C1)C
reactant | ether | CCOCC | C4H10O
reactant | (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one | C(=O)[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O | C15H14O5
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1S,5R,6R,7R)-6-[(E)-3-Oxo-5-phenyl-1-pentenyl]-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one | O=C(/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)CCC1=CC=CC=C1 | C25H24O5
